US07989449B2
In an analogous reaction sequence to that described for Building Block C, the reaction of 1-(3-difluoromethoxy-phenyl)-ethanone with 3-bromophenyllithium yielded the (3-bromo-phenyl)-(3-difluoromethoxy-phenyl)-methanol which was used as crude material in the following elimination reaction with a catalytic amount of p-toluenesulfonic acid to yield the 1-bromo-3-[1-(3-difluoromethoxy-phenyl)-vinyl]-benzene (yield: 68% of theory) as a light yellow oil. TLC: Rf: 0.66 (silica gel; heptane:ethyl acetate=4:1, UV, 254 nm).

reactant | 1-(3-difluoromethoxy-phenyl)-ethanone | FC(OC=1C=C(C=CC1)C(C)=O)F | C9H8F2O2
reactant | 3-bromophenyllithium | BrC=1C=C(C=CC1)[Li]
product | (3-bromo-phenyl)-(3-difluoromethoxy-phenyl)-methanol | BrC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)OC(F)F | C14H11BrF2O2
